US07816557B2
3-{4-[1-(4′-Pentyl-biphenyl-4-yloxy)-butyl]-benzoylamino}-propionic acid, Isomer 1
This compound is made in a substantially similar manner as Example 117 using isomer 1 of 3-{4-[1-(4-bromo-phenoxy)-butyl]-benzoylamino}-propionic acid methyl ester and 4-pentylphenylboronic acid as starting materials in step D. MS (ES): 488.3 [M+H]+.

reactant | 3-{4-[1-(4-bromo-phenoxy)-butyl]-benzoylamino}-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CCC)OC1=CC=C(C=C1)Br)=O)=O | C21H24BrNO4
reactant | 4-pentylphenylboronic acid | C(CCCC)C1=CC=C(C=C1)B(O)O | C11H17BO2
product | 3-{4-[1-(4′-Pentyl-biphenyl-4-yloxy)-butyl]-benzoylamino}-propionic acid | C(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(CCC)C1=CC=C(C(=O)NCCC(=O)O)C=C1 | C31H37NO4
